US05346904
1. rac-cis-8,9-Dimethoxy-1,2,3,4,4a,10b-hexahydro-2-methyl-6-(4-methylsulphonamidophenyl)-benzo[c][1,6]naphthyridine
A solution of 0.6 ml methanesulphonyl chloride in 3 ml absolute dioxane is added dropwise to a solution of 2.1 g rac-cis-6-(4-aminophenyl)-8,9-dimethoxy-1,2,3,4,4a, 10b-hexahydro-2-methyl-benzo[c ][1,6]naphthyridine in 20 ml absolute pyridine, and the mixture is then stirred at 60° C. for a further 3 h. After cooling, the mixture is poured onto 100 ml of an ice/water mixture, rendered alkaline with dilute sodium hydroxide solution and extracted with n-butanol. After the n-butanol has been evaporated off, the residue which remains is extracted with methylene chloride and the organic phase is dried over sodium sulphate and then concentrated. 2.4 g of the title compound are obtained as the residue and are converted into the dihydrochloride with ethereal HCl, and the product is recrystallized from non-dried methanol. Yield: 2.3 g of the title compound as the dihydrochloride hydrate. M.p. 239°-240° C. (decomposition).

reactant | methanesulphonyl chloride | 0.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | rac-cis-6-(4-aminophenyl)-8,9-dimethoxy-1,2,3,4,4a, 10b-hexahydro-2-methyl-benzo[c ][1,6]naphthyridine | 2.1 g | NC1=CC=C(C=C1)C1=N[C@H]2CCN(C[C@H]2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | rac-cis-8,9-Dimethoxy-1,2,3,4,4a,10b-hexahydro-2-methyl-6-(4-methylsulphonamidophenyl)-benzo[c][1,6]naphthyridine | 2.4 g | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)NS(=O)(=O)C)C1)OC | C22H27N3O4S
